US05521170
To a solution of oxalyl chloride (0.134 ml) in dichloromethane (10 ml) was added dimethyl sulfoxide (0.109 ml) at -78° C. and the mixture was stirred at the same temperature. After 10 minutes, 1-(2-hydroxyethyl) -5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (400 mg) in dichloromethane (10 ml) was added dropwise at -78° C. and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added triethylamine (0.537 ml) and the mixture was allowed to ambient temperature. The solution was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give 1-formylmethyl-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (301 mg) as an unstable oil. The oil was used for next step without further purification.

reactant | oxalyl chloride | 0.134 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.109 ml | CS(=O)C | C2H6OS
reactant | 1-(2-hydroxyethyl) -5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 400 mg | OCCN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)=O | C32H29N3O4
reactant | triethylamine | 0.537 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-formylmethyl-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 301 mg | C(=O)CN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)=O | C32H27N3O4
